US07947692B2
A mixture of 6-trifluoromethyl-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol (320 mg, 1.30 mmol) in acetonitrile (15 mL) was treated with (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester (360 mg, 1.18 mmol). The mixture was stirred at reflux for 2 h. At this time, the reaction was poured into a saturated aqueous sodium bicarbonate solution. The aqueous layer was extracted with methylene chloride. The organics were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 98/2 methylene chloride/methanol) afforded 4′-hydroxy-6-trifluoromethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (94 mg, 17%) as a white solid; LRMS for C18H17F3N6O3S (M+H)+ at m/z=454. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 6-trifluoromethyl-2′,3′,5′,6′-tetrahydro-1′H-[2,4′]bipyridinyl-4′-ol | 1.30 mmol, 320 mg | FC(C1=CC=CC(=N1)C1(CCNCC1)O)(F)F | C11H13F3N2O
reactant | (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester | 1.18 mmol, 360 mg | C1(=CC=CC=C1)OC(NC=1SC=2N=CN=C(C2N1)OC)=O | C13H10N4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4′-hydroxy-6-trifluoromethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 94 mg, 17% | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCC(CC2)(C2=NC(=CC=C2)C(F)(F)F)O | C18H17F3N6O3S
